US07776897B2
Ethyl 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanoate was reacted with diisobutylaluminum hydride in toluene at −78° C. to obtain 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanal.

reactant | Ethyl 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanoate | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C(=O)OCC)(C)C)C | C15H18ClN3O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanal | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C=O)(C)C)C | C13H14ClN3O
